US05681543
c) 2-(4-hydroxybenzyl)-1,4,7,10-tetraazacyclododecane, trihydrobromide
12.0 g (12.7 mmol) of 2-(4-hydroxybenzyl)-1,4,7,10-tetra-tosyl-1,4,7,10-tetraazacyclodecane is heated in 50 ml of glacial acetic acid with 33% of hydrogen bromide for four hours to 100° C. It is poured into 300 ml of diethyl ether, suctioned off and resuspended twice in 300 ml of diethyl ether each. All operations are performed under nitrogen protective atmosphere. After drying in a vacuum, 5.16 g (78% of theory) is present of colorless crystals, which melt with decomposition at 115°-117° C.

reactant | 2-(4-hydroxybenzyl)-1,4,7,10-tetra-tosyl-1,4,7,10-tetraazacyclodecane | 12.7 mmol, 12.0 g | OC1=CC=C(CC2N(N(CCN(CCN(C2)S(=O)(=O)C2=CC=C(C)C=C2)S(=O)(=O)C2=CC=C(C)C=C2)S(=O)(=O)C2=CC=C(C)C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C=C1 | C41H46N4O9S4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-(4-hydroxybenzyl)-1,4,7,10-tetraazacyclododecane, trihydrobromide | Br.Br.Br.OC1=CC=C(CC2NCCNCCNCCNC2)C=C1 | InChI=1S/C15H26N4O.3BrH/c20-15-3-1-13(2-4-15)11-14-12-18-8-7-16-5-6-17-9-10-19-14;;;/h1-4,14,16-20H,5-12H2;3*1H
